US06518306B1
4-[4-(2-Aminopyrimidin-5-yl)phenyl]-4-(3-cyclopentyloxy-4-methoxyphenyl)-2-cyclohexen-1-one
To a solution of 4-(4-bromophenyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)-2-cylohexen-1-one (1.39 g, 3.17 mmol) in Toluene (50 ml) was added tetrakis(triphenylphosphine)palladium(0) (417 mg, 0.36 mmol), followed by 2-(2-aminopyrimidin-5-yl)-4,4,5,5-tetramethyl-1,3-dioxaborolane (2.02 g, 6.1 mmol, prepared as described in Tatsuo Ishiyama; Miki Murata and Norio Miyaura, J. Org. Chem. 1995, 60, 7508-7510), ethanol (8 ml) and 2M sodium carbonate (8 ml). The reaction mixture was stirred under argon at 80° C. for 18 h. Water was added and the mixture extracted three times with ethyl acetate, the combined organic extract was washed with water then brine, dried (sodium sulfate) and evaporated. Purification by flash chromatography (silica gel, 73% ethyl acetate/27% hexane) provided the title compound as a white solid (1.2 g, 83% crude yield). MS (m/e): 456 [(M+1)+].

reactant | 4-(4-bromophenyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)-2-cylohexen-1-one | 3.17 mmol, 1.39 g | BrC1=CC=C(C=C1)C1(C=CC(CC1)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C24H25BrO3
reactant | 2-(2-aminopyrimidin-5-yl)-4,4,5,5-tetramethyl-1,3-dioxaborolane | 6.1 mmol, 2.02 g | NC1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C10H16BN3O2
reactant | ethanol | 8 ml | C(C)O | C2H6O
reactant | sodium carbonate | 2M, 8 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | Toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.36 mmol, 417 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | 4-[4-(2-Aminopyrimidin-5-yl)phenyl]-4-(3-cyclopentyloxy-4-methoxyphenyl)-2-cyclohexen-1-one | 1.2 g | NC1=NC=C(C=N1)C1=CC=C(C=C1)C1(C=CC(CC1)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C28H29N3O3
